US08497264B2
5-Bromo-2-(6-chloropyridin-3-yloxy)-N,N-diethylbenzamide (457.5 g, 1.23 mol, 1 eq) was dissolved in anhydrous THF (3 L) and cooled to −78° C. To this solution was added a solution of LDA (2M in heptane/THF/ethyl benzene, 2.25 L, 4.5 mol, 3.65 eq) maintaining the temperature below −70° C. After the addition was complete, the solution was stirred for additional 30 min at −78° C. The acetone-dry ice bath was removed and the reaction was quenched with a saturated aqueous solution of NH4Cl (1 L), maintaining the temperature below 10° C. Another batch of 5-bromo-2-(6-chloropyridin-3-yloxy)-N,N-diethylbenzamide (457.5 g) was processed using the same protocol. The crude reaction mixtures from both reactions were combined and the layers were separated. The aqueous layer was extracted with ethyl acetate (3×5 L). The combined organic layers were dried and passed through a pad of silica gel. The filtrate was evaporated, and the residue was triturated with DCM to give 70 g of 7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one. The mother liquor was evaporated and the solid thus obtained was purified by recrystallization using DCM/hexanes to give 180 g of 7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one.

reactant | 5-Bromo-2-(6-chloropyridin-3-yloxy)-N,N-diethylbenzamide | 1.23 mol, 457.5 g, 1 eq | BrC=1C=CC(=C(C(=O)N(CC)CC)C1)OC=1C=NC(=CC1)Cl | C16H16BrClN2O2
reactant | LDA | 4.5 mol, 2M, 2.25 L, 3.65 eq | [Li+].CC(C)[N-]C(C)C
solvent | THF | 3 L | C1CCOC1 | C4H8O
product | 7-bromo-3-chloro-5H-chromeno[2,3-c]pyridin-5-one | 70 g | BrC=1C=C2C(C3=C(C=NC(=C3)Cl)OC2=CC1)=O | C12H5BrClNO2
